US05847153
Step 4 Preparation of 2-[(4-methoxybenzenesulfonyl)propyl]-2-propenoic acid, ethyl ester.
A mixture of 3-(4-methoxybenzenesulfonyl)-propylmalonic acid, monoethyl ester (1.1 g, 3.2 mmol), paraformaldehyde (0.11 g, 3.5 mmol), piperidine (0.03 mL, 0.32 mmol), and pyridine (20 mL) is refluxed for three hours. The mixture is transferred to ethyl acetate and extracted with aqueous 10% hydrochloric acid, distilled water, aqueous sodium bicarbonate, brine, and the organic phase is concentrated in vacuo to yield the title compound as a clear, colorless oil.

reactant | 3-(4-methoxybenzenesulfonyl)-propylmalonic acid, monoethyl ester | 3.2 mmol, 1.1 g | COC1=CC=C(C=C1)S(=O)(=O)CCCC(C(=O)OCC)C(=O)[O-]
reactant | paraformaldehyde | 3.5 mmol, 0.11 g | C=O | CH2O
reactant | piperidine | 0.32 mmol, 0.03 mL | N1CCCCC1 | C5H11N
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(4-methoxybenzenesulfonyl)propyl]-2-propenoic acid, ethyl ester | COC1=CC=C(C=C1)S(=O)(=O)CCCC(C(=O)OCC)=C | C15H20O5S
